US08217027B2
To a slurry of sodium hydride (7.86 g, 197 mmol) in DMF (100 mL) was added methyl iodide (12.29 mL, 197 mmol) followed by a solution of hept-6-yn-1-ol (24.5 g, 197 mmol) in DMF (50 mL). Following the addition the reaction was monitored by TLC. After 2 h additional methyl iodide (6 mL, 50 mmol) was added followed by sodium hydride (1 g, 25 mmol) portions. At 1 h intervals additional sodium hydride (1 g, 25 mmol) portions was added until no alcohol remained as indicated by TLC. Et2O (50 mL) and water (100 mL) was added to the reaction mixture and the layers were separated. The organic layer was washed with brine, dried using Na2SO4, filtered and distilled (145-155° C.) to provide 7-methoxyhept-1-yne (18 g, 121 mmol, 61.7% yield) as a colorless oil.

reactant | sodium hydride | 197 mmol, 7.86 g | [H-].[Na+]
reactant | methyl iodide | 197 mmol, 12.29 mL | CI | CH3I
reactant | hept-6-yn-1-ol | 197 mmol, 24.5 g | C(CCCCC#C)O | C7H12O
reactant | methyl iodide | 50 mmol, 6 mL | CI | CH3I
reactant | sodium hydride | 25 mmol, 1 g | [H-].[Na+]
reactant | sodium hydride | 25 mmol, 1 g | [H-].[Na+]
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 7-methoxyhept-1-yne | 121 mmol, 18 g, 61.7% yield | COCCCCCC#C | C8H14O
